US07018988B2
(2S,4EZ)-N-[(2RS)-2-hydroxy-3-phenoxypropyl]-4-(methoxyimino)-1-[4-(3-pyridinyl)benzoyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 4-(3-pyridinyl)benzoic acid, and (2RS)-1-amino-3-phenoxy-2-propanol, the title compound was obtained in 76% purity by HPLC. MS(ESI+): m/z=489.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 4-(3-pyridinyl)benzoic acid | N1=CC(=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | (2RS)-1-amino-3-phenoxy-2-propanol | NCC(COC1=CC=CC=C1)O | C9H13NO2
product | (2S,4EZ)-N-[(2RS)-2-hydroxy-3-phenoxypropyl]-4-(methoxyimino)-1-[4-(3-pyridinyl)benzoyl]-2-pyrrolidinecarboxamide | OC(CNC(=O)[C@H]1N(CC(C1)=NOC)C(C1=CC=C(C=C1)C=1C=NC=CC1)=O)COC1=CC=CC=C1 | C27H28N4O5
